US06492416B1
To a stirred solution of the crude 2,2-diethyl-5-{4-(methylthio)phenyl}-3(2H)-furanone (5.6 g) obtained in the previous step in 50 ml TBF and 50 ml methanol, was added dropwise 20 g of OXONE dissolved in 50 ml water at 0° C. Then the mixture was then stirred at room temperature for 14 hours. The insoluble materials were filtered off and the filtrate was concentrated in vacuo. The resulting residue was extracted with water and ethylacetate (150 ml×2). The ethylacetate layer was concentrated and the resulting crude product was purified by column chromatography (hexane/ethylacetate=2:1) to give 4.5 g of 2,2-diethyl-5-{4-(methylsulfonyl)phenyl}-3(2H)-furanone as a solid. mp: 109-110° C. NMR: 0.86 (t, J=7.5 Hz, 6H), 1.91 (q, J=7.5 Hz, 4H), 3.10 (s, 3H), 6.14 (s, 1H), 8.04 (d, J=9.0 Hz, 2H), 8.09 (d, J=9.0 Hz, 2H). IR (cm−1): 2973, 1695, 1588, 1561, 1408, 1315, 1152.

reactant | 2,2-diethyl-5-{4-(methylthio)phenyl}-3(2H)-furanone | 5.6 g | C(C)C1(OC(=CC1=O)C1=CC=C(C=C1)SC)CC | C15H18O2S
reactant | OXONE | 20 g | OOS(=O)[O-].[K+]
reactant | methanol | 50 ml | CO | CH4O
solvent | water | 50 ml | O | H2O
product | 2,2-diethyl-5-{4-(methylsulfonyl)phenyl}-3(2H)-furanone | 4.5 g | C(C)C1(OC(=CC1=O)C1=CC=C(C=C1)S(=O)(=O)C)CC | C15H18O4S
